US09085578B2
A) 2-bromo-N-tritylethanamine
To a solution of 2-bromoethanamine (5.00 g) and trityl chloride (6.80 g) in dichloromethane (24 mL) was slowly added triethylamine (7.48 mL) under ice-cooling, and the reaction mixture was stirred under ice-cooling for 2 hr. The resulting solid was removed by filtration, the filtrate was poured into water, and the mixture was extracted with dichloromethane. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was recrystallized from dichloromethane/cyclohexane to give the title compound (5.60 g).

reactant | 2-bromoethanamine | 5.00 g | BrCCN | C2H6BrN
reactant | trityl chloride | 6.80 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 7.48 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
product | 2-bromo-N-tritylethanamine | 5.60 g | BrCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20BrN
